US05338739
3-[1-(4-Pyridinylmethyl)-2-pyrrolidinyl]phenol
2-(3-Methoxyphenyl)-1-(4-pyridinylmethyl)pyrrolidine (5.70 g) was dissolved in dry dichloromethane (66 ml) and cooled to -78° C., under nitrogen. Boron tribromide in dichloromethane (1.0M solution, 66.0 ml) was added dropwise, and the reaction mixture was allowed to warm to ambient temperature overnight. The mixture was acidified with 5% hydrochloric acid to pH of 2 and then basified with saturated sodium bicarbonate solution to pH of 8. The layers were separated, and the aqueous phase was extracted with dichloromethane (3 times) and ether (1 time). The organic extracts were washed with brine, dried over anhydrous potassium carbonate, filtered, and the filtrate was concentrated. The residue was purified by flash column chromatography (silica gel, 2% triethylamine/ether). The appropriate fractions were collected and concentrated to afford 1.60 g (30%) of product. Recrystallization from ether gave the analytical sample, mp 138° C.

reactant | 2-(3-Methoxyphenyl)-1-(4-pyridinylmethyl)pyrrolidine | 5.70 g | COC=1C=C(C=CC1)C1N(CCC1)CC1=CC=NC=C1 | C17H20N2O
reactant | Boron tribromide | B(Br)(Br)Br | BBr3
reactant | hydrochloric acid | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 66 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1.0M, 66.0 ml | ClCCl | CH2Cl2
product | 3-[1-(4-Pyridinylmethyl)-2-pyrrolidinyl]phenol | 1.60 g, 30% | N1=CC=C(C=C1)CN1C(CCC1)C=1C=C(C=CC1)O | C16H18N2O
